US07767697B2
To a solution of 1-(4-(4-(azidomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one prepared above (203 mg, 0.695 mmol) in MeOH (6 mL) and EtOAc (6 mL), SnCl22H2O (343 mg, 1.52 mmol) was added. After the mixture was heated to reflux for 1 h, it was concentrated in vacuo. The residue was purified by HPLC to give 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one (145 mg). MS 267 (M+H).

reactant | 1-(4-(4-(azidomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one | N(=[N+]=[N-])CC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C15H12N6O
solvent | MeOH | 6 mL | CO | CH4O
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
product | 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one | 145 mg | NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C15H14N4O
